US04294760
Benzoyl cyanide, 0.67 g (0.005 mole) and methyl 1-methylpyrrole-2-acetate, 0.76 g (0.005 mole) were stirred together in ether (2 ml) containing oxalic acid (0.04 g). The reaction was run in the dark at room temperature. After six days, the reaction mixture was placed in the freezer overnight, filtered, and washed with cold ether to yield 0.17 g (12 percent) of methyl 1-methyl-5-(cyanohydroxyphenylmethyl)pyrrole-2-acetate, mp 137°-8°. The solid state IR spectrum was identical to authentic material.

reactant | Benzoyl cyanide | C(C1=CC=CC=C1)(=O)C#N | C8H5NO
reactant | methyl 1-methylpyrrole-2-acetate | CN1C(=CC=C1)CC(=O)OC | C8H11NO2
reactant | oxalic acid | 0.04 g | C(C(=O)O)(=O)O | C2H2O4
solvent | ether | 2 ml | CCOCC | C4H10O
product | methyl 1-methyl-5-(cyanohydroxyphenylmethyl)pyrrole-2-acetate | 0.17 g, 12 percent | CN1C(=CC=C1C(C1=CC=CC=C1)(O)C#N)CC(=O)OC | C16H16N2O3
